US08497381B2
Step 2: [2′-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
To [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.5 g, 1.0 mmol) in DMF (10 mL) was added cesium carbonate (0.652 g, 2.0 mmol) and N-phenyl-bis(trifluoromethanesulfonimide) (0.393 g, 1.1 mmol), and the reaction was stirred at room temperature under N2 for 1 hour. Once no starting material was seen by analytical tlc, the mixture was worked-up with EtOAc and H2O, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 1.0 mmol, 0.5 g | COC(CC=1C=C(C(=CC1)O)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C27H24F3NO5
reactant | cesium carbonate | 2.0 mmol, 0.652 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 1.1 mmol, 0.393 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | [2′-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OS(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C28H23F6NO7S
